datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[H:11]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][H:11],-0.8368
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[H:31]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:10])[H:11].[H:12][H:31],0.0
[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[c:22]1[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]([H:31])[c:27]1[H:32]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[H:12][c:22]1[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]([H:31])[c:27]1[H:32],-7.9496
[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:10])[H:9])[H:8])([H:5])([H:6])[H:7].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0]([C:1](=[C:2]([C:3](=[O:4])[H:10])[H:9])[H:8])([H:6])[H:7].[H:5][C:11](=[C:12]([H:14])[H:15])[H:13],19.589488
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])=[C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([C:5](=[C:6]([H:17])[H:18])[H:16])[C:7]1([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:12])([H:10])[H:11],158.866
[C:0](=[C:1]=[C:2]([C:3]([H:12])([H:13])[H:14])[c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:10])[H:11].[H:20]>>[C:0](=[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:20])([H:10])[H:11],19.4138
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:17])([H:18])[H:19])=[C:10]([C:11]([H:20])([H:21])[H:22])[C:12](=[C:13]([H:24])[H:25])[H:23])[H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:14])[H:15])[H:16])([C:9]([H:17])([H:18])[H:19])[C:10]([C:11]([H:20])([H:21])[H:22])[C:12](=[C:13]([H:24])[H:25])[H:23])[H:3],34.8109
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[C:8]([C:9]=[O:10])([H:11])([H:12])[H:13]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][C:9]([C:8]([H:11])([H:12])[H:13])=[O:10],172.52
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18](=[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[H:25])[H:24])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:11])[C:20]([C:19](=[C:18]([H:22])[H:23])[H:24])([C:21]([H:26])([H:27])[H:28])[H:25])[H:10],46.819
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[H:15])([H:3])([H:4])[H:5].[C:10](=[C:11]=[C:12]([H:16])[H:17])([H:13])[H:14],25.104
[C:0](=[C:1][C:2]([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:11])[H:12])([H:9])[H:10]>>[C:0](=[C:1]1[C:2]([H:11])([H:12])[C:3]12[C:4]([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]([H:16])=[C:8]2[H:17])([H:9])[H:10],93.44964
[C:0]([C:1]([C:2]1([H:17])[C:3]([H:18])[C:4]([H:19])=[C:5]([H:20])[c:6]2[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]21)([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]([c:2]1[c:3]([H:18])[c:4]([H:19])[c:5]([H:20])[c:6]2[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]12)([H:15])[H:16])([H:12])([H:13])[H:14].[H:17],137.28
[C:0]([C:1]([C:2](=[S:3])[H:8])[H:7])([H:4])([H:5])[H:6].[S:9]=[C:10]([C:11]([S:12][H:16])([H:14])[H:15])[H:13]>>[C:0]([C:1]([C:2](=[S:3])[H:8])([H:7])[H:14])([H:4])([H:5])[H:6].[S:9]=[C:10]([C:11]([S:12][H:16])[H:15])[H:13],30.1248
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21],100.5
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([C:13](=[S:14])[H:17])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:12]([C:13](=[S:14])[H:17])([H:15])[H:16],49.7896
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18](=[C:19]([C:20]([C:21]([H:26])([H:27])[H:28])[H:25])[H:24])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:12])([H:13])[H:14])([C:6](=[C:7]([H:16])[H:17])[H:15])[C:20]([C:19](=[C:18]([H:22])[H:23])[H:24])([C:21]([H:26])([H:27])[H:28])[H:25])[H:8],45.3127
